US04935430
According to the method of V. P. Chernetskii, A. I. Kiprianov, Zh. Obsch. Khim, 1956, 26, 3465, a mixture of 2-fluoronitrobenzene (14.0 g, 100 mmol), p-iodo aniline (10.95 g, 50 mmol) and triethylamine (13.9 ml, 100 mmol) was heated under reflux for 42 hours. The mixture was cooled, diluted with ethyl acetate (300 ml) washed consecutively with water (100 ml), 2N sodium hydroxide (100 ml) and brine (100 ml). The organic layer was dried (MgSO4), concentrated under reduced pressure and the residue was recrystallised from ethyl acetate to give N-(4-iodophenyl)-2-nitroaniline, 10.03 g, as bright orange needles, m.p. 171°-2° C.

reactant | 2-fluoronitrobenzene | 100 mmol, 14.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | p-iodo aniline | 50 mmol, 10.95 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | triethylamine | 100 mmol, 13.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-iodophenyl)-2-nitroaniline | IC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9IN2O2
